US06071935
2-Acetyl-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile (551 mg, 2.88 mmol) was dissolved in methanol (20 ml) under an atmosphere of dry N2. The reaction was then cooled to 0° C. to which sodium borohydride (203 mg, 5.37 mmol) was added. After stirring at 0° C. for two hours, the reaction was concentrated under vacuum and partitioned between saturated NaHCO3 and CH2Cl2. The CH2Cl2 layer was dried over Na2SO4, filtered and concentrated under vacuum to give 2-(1-hydroxy-ethyl)-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile as a mixture of diastereomers. The mixture was then dissolved in anhydrous DMF (10 ml) under an atmosphere of dry N2. To this reaction was added 1,1'-thiocarbonyl-diimidazole (990 mg, 5.00 mmol). After stirring at ambient temperature for 16 hours, the reaction was then partitioned between 1.0% sodium bisulfate solution and ethyl ether. The ethyl ether layer was washed twice with water, once with brine, dried over MgSO4, filtered and concentrated under vacuum to give imidazole-1-carbothioic acid-O-[1-(3-cyano-6,6-dimethyl-bicyclo(3.1.1]hept-2-yl)-ethyl] ester as a mixture of diastereomers. The mixture was then dissolved in anhydrous toluene (10 ml) under an atmosphere of dry N2. To this mixture was added α,α'-azo-isobutyronitrile (250 mg, 1.52 mmol) and tributyltin hydride (2.0 ml, 7.21 mmol). The reaction was then heated to 100° C. . After stirring at 100° C. for 3 hours, the reaction was concentrated under vacuum to give an oil. The oil was chromatographed on silica gel using hexanes to remove the bulk of the tin containing species and then eluting with 1% ethyl acetate in hexanes to give 288 mg of the titled compound: 1H NMR (CDCl3)δ 2.72 (dt, J=6.8, 9.8 Hz, 1H), 2.37-2.47 (m, 2H), 2.13-22 (m, 2H) 2.00 (m, 2H), 1.60 (m, 1H), 1.21-1.38 (m, 2H), 1.20 (s, 3H), 0.98 (t, J=7.2 Hz, 3H), 0.91 (s, 3H).

reactant | 2-Acetyl-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile | 2.88 mmol, 551 mg | C(C)(=O)C1C2C(C(CC1C#N)C2)(C)C | C12H17NO
reactant | sodium borohydride | 5.37 mmol, 203 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(1-hydroxy-ethyl)-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile | OC(C)C1C2C(C(CC1C#N)C2)(C)C | C12H19NO
